US06919355B2
a) Methyl (Z)-2-azido-3-(1H-indole-5-yl)acrylate
Under nitrogen, to a sodium methoxide solution (prepared from 15 ml of methanol and 0.66 g (29 mmol) of sodium) a mixture of 1.02 g (7 mmol) of indole-5-carbaldehyde [Helv. Chim. Acta, 1616. (1968)], 3.34 g (29 mmol) of methyl azido-acetate and 7 ml of methanol is added dropwise at 0° C. and the so obtained mixture is stirred at this temperature for 5 h. Then the reaction mixture is diluted with 50 ml of water, and extracted three times with 50 ml of chloroform. The combined organic layers are washed with 20 ml of water, filtered through a phase separating filter-paper and concentrated to yield 1.3 g (77%) of the title compound. Mp.: 130-133° C. (chloroform).

reactant | sodium methoxide | 29 mmol, 15 ml, 0.66 g | C[O-].[Na+]
reactant | sodium | 29 mmol | [Na] | Na
reactant | indole-5-carbaldehyde | 7 mmol, 1.02 g | N1C=CC2=CC(=CC=C12)C=O | C9H7NO
reactant | methyl azido-acetate | 29 mmol, 3.34 g | N(=[N+]=[N-])CC(=O)OC | C3H5N3O2
solvent | water | 50 ml | O | H2O
solvent | methanol | 7 ml | CO | CH4O
product | Methyl (Z)-2-azido-3-(1H-indole-5-yl)acrylate | 1.3 g, 77% | N(=[N+]=[N-])\C(\C(=O)OC)=C/C=1C=C2C=CNC2=CC1 | C12H10N4O2
